US05232937
N-(4-cyanophenyl)-4-cyanobenzamide
13.1 g (0.13 moles) of triethylamine were added to a solution of 14.2 g (0.12 moles) of 4-aminobenzonitrile in 100 ml of tetrahydrofuran and the temperature was then kept at about 5° C. and 20 g (0.12 moles) of 4-cyanobenzoyl chloride were added dropwise. The mixture was left to react for 12 h under agitation. The solvent was evaporated, the residue was taken up with H2O and the precipitate formed was filtered. The precipitate was washed with dilute HC1, a 10% solution of bicarbonate and again with H2O.

reactant | triethylamine | 0.13 moles, 13.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-aminobenzonitrile | 0.12 moles, 14.2 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 4-cyanobenzoyl chloride | 0.12 moles, 20 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(4-cyanophenyl)-4-cyanobenzamide | C(#N)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)C#N)=O | C15H9N3O
